US07572792B2
Propane-1-sulfonyl chloride (0.44 ml, 3.9 mmol) was added to tert-butyl [(3-morpholin-4-ylazetidin-3-yl)methyl]carbamate (0.71 g, 2.6 mmol) and triethylamine (0.91 g, 6.5 mmol) in dichloromethane (9 ml) at 0° C. The reaction was then stirred at room temperature for 30 mins before quenching with N,N-dimethylethylenediamine (0.5 eq). The resulting mixture was partitioned between dichloromethane and water. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to dryness to give crude tert-butyl {[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}carbamate which was used without further purification m/z (M++H) 378.

reactant | Propane-1-sulfonyl chloride | 3.9 mmol, 0.44 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | tert-butyl [(3-morpholin-4-ylazetidin-3-yl)methyl]carbamate | 2.6 mmol, 0.71 g | N1(CCOCC1)C1(CNC1)CNC(OC(C)(C)C)=O | C13H25N3O3
reactant | triethylamine | 6.5 mmol, 0.91 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylethylenediamine | 0.5 eq | CN(CCN)C | C4H12N2
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | tert-butyl {[3-morpholin-4-yl-1-(propylsulfonyl)azetidin-3-yl]methyl}carbamate | N1(CCOCC1)C1(CN(C1)S(=O)(=O)CCC)CNC(OC(C)(C)C)=O | C16H31N3O5S
